Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
s/p fall w/ b/l mandible fractures
 
Major Surgical or Invasive Procedure:
1- Intermaxillary fixation with IMF screws
2- Transoral open reduction internal fixation of left mandibular
body fracture
3- Transoral open reduction internal fixation of Right 
mandibular
angle fracture

 
History of Present Illness:
Pt reports that last night he was walking down the side walk 
outside his apartment complex and there was an uneven surface 
where he tripped and fell down on his chin. + LOC, Denies HS. He 
reports that he went home and presented to the OSH after he 
noticed bleeding from inside his mouth. He was transferred to ___ 
___ for ___ evaluation. He reports that he feels like his
bite is off. He denies any numbness or paresthesia. He reports 
___ pain. He reports that he is able to tolerate his 
secretions, denies any difficulty breathing or lying down flat.

 
Past Medical History:
PMH/PSH: Pneumonia.
 
Social History:
___
Family History:
Non-contributory 
 
Physical Exam:
Admission Physical Exam: 
Gen:Lying in bed, no acute distress.
HEENT:
Head: Atraumatic, normocephalic. 
Eyes: EOMI, PERLL, vision grossly intact. 
Ears: No external deformity, gross hearing intact. 
Nose: No tenderness, no gross deformity. 
EOE/TMJ: b/l pre-auricular tenderness, minimal trismus, ___ is
32mm, minimal edema around the L mandibular body. No
clicking/popping in b/l TMJ. Exam limited by tenderness. Step
deformity noted along the L mandibular body with tenderness. 
IOE: There is a open fracture at the site of #28 and 29, the
segments are mobile with communication with the OC. No missing 
or
fractured tooth. Minimal ecchymosis anterior FOM. R mandibular
vestibule tender to palpation. OP is clear. uvula is midline.
Occlusion consistent with pre-op occlusion after placing 24 G
bridal wire. 
___: RR. s1, s2 normal
Pulm: no use of accessory muscles. 

Discharge Physical Exam:
VS: T 98.4 / BP 135 / 92 / HR 58 / RR 18 / O2sat 98% RA 
General – NAD, comfortable
HEENT – normocephalic/atraumatic, PERRLA/EOMI, moist mucous 
membranes, jaw mild TTP bilaterally
Neck – full ROM
Cardiac – RRR, no M/R/G
Chest – CTAB
Abdomen – soft, NT, ND, normoactive bowel sounds
Extremities – warm and well-perfused, no edema, 2+ DPs 
bilaterally
Neuro – A&OX3, sensorimotor function intact in all 4 extremities

 
Pertinent Results:
IMAGING:

___: CXR (PA&LAT):
Persistent right lung base consolidation compared to prior which 
may represent pneumonia in the proper clinical setting. 

___: Mandible (Panorex):
Persistent right lung base consolidation compared to prior which 
may represent pneumonia in the proper clinical setting. 

OSH CT maxillofacial: Suggestive of L body fx minimally 
displaced and R ramus/angle fracture minimally displaced. 
Impacted #32 noted. 

MANDIBLE (PANOREX ONLY)Study Date of ___ 11:54 ___

FINDINGS: 
 
Compared to the prior study there has been interval removal of 
the cerclage
wire previously seen around the left lower teeth.  There are now 
fracture
plates seen transfixing the left mandibular ramus fracture.  In 
addition and
new fracture plate has been placed along a fracture at the right 
angle of the
mandible.  Alignment appears unchanged compared to the prior 
radiographs. 
This extends to the root ___ tooth number 32

LABS:

___ 06:05PM   GLUCOSE-80 UREA N-9 CREAT-0.8 SODIUM-143 
POTASSIUM-3.6 CHLORIDE-104 TOTAL CO2-25 ANION GAP-18
___ 06:05PM   WBC-9.7 RBC-4.74 HGB-14.0 HCT-39.9* MCV-84 
MCH-29.5 MCHC-35.1 RDW-12.7 RDWSD-38.9
___ 06:05PM   NEUTS-63.7 ___ MONOS-10.6 EOS-1.2 
BASOS-0.3 IM ___ AbsNeut-6.15* AbsLymp-2.30 AbsMono-1.02* 
AbsEos-0.12 AbsBaso-0.03
___ 06:05PM   PLT COUNT-314
___ 06:05PM   ___ PTT-28.6 ___
 
Brief Hospital Course:
Mr. ___ was admitted to ___ from OSH s/p mechanical fall w/ 
b/l mandible fractures.  He was admitted to the Trauma Surgery 
service and ___ was consulted.  The patient's injuries 
warranted operative management.  The patient was started on IV 
cefazolin prophylactically and chlorhexidine mouthwashes. The 
patient was made NPO and on HD2, the patient was taken to the OR 
by ___ and underwent intermaxillary fixation with IMF screws, 
transoral open reduction internal fixation of left mandibular 
body fracture, and transoral open reduction internal fixation of 
the right mandibular angle fracture.  The patient tolerated this 
procedure well (reader please refer to operative note for 
further details). 

After remaining hemodynamically stable in the PACU, the patient 
was transferred to the surgical floor. He arrived on IVF, IV 
hydromorphone and acetaminophen for pain control.  Pain medicine 
was converted to oral medication as he was tolerating a diet. He 
was started on a fulls to mechanical soft diet as tolerated.  IV 
cefazolin was continued and the patient was discharged on a 
course of keflex. 

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
___ instructions with understanding verbalized and 
agreement with the discharge plan.
 
Medications on Admission:
None
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every six (6) 
hours Disp #*40 Tablet Refills:*0 
2.  Cephalexin 500 mg PO Q6H Duration: 3 Days 
RX *cephalexin 500 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*12 Tablet Refills:*0 
3.  Chlorhexidine Gluconate 0.12% Oral Rinse 15 mL ORAL BID 
swish and spit 
RX *chlorhexidine gluconate 0.12 % swish and spit 15 mL twice a 
day Disp #*420 Milliliter Refills:*0 
4.  Docusate Sodium 100 mg PO BID 
please hold for loose stool  
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*30 Tablet Refills:*0 
5.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
do NOT drink alcohol or drive while taking this medication  
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*30 Tablet Refills:*0 
6.  Senna 8.6 mg PO BID:PRN constipation   

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
-Right mandible angle fracture
-Left mandible body fracture

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure caring for you at ___ 
___.  You were admitted to the hospital with left and 
right jaw fractures.  You were taken to the operating room and 
had your jaw fractures surgically repaired.  You tolerated this 
procedure well.  It is recommended that you start on a full 
liquid diet and may self-advance to a soft diet 3 days after 
discharge.  Then, if your pain and swelling are improving, you 
may try a regular diet.  You will receive a course of 
antibiotics and mouthwash to prevent infection.  

You are now ready to be discharged from the hospital.  Please 
note the following discharge instructions:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you ___ with your 
surgeon.
Avoid driving or operating heavy machinery while taking pain 
medications.

Incision Care:
*Please call your doctor or nurse practitioner if you have 
increased pain, swelling, redness, or drainage from the incision 
site.
*Avoid swimming and baths until your ___ appointment.

 
Followup Instructions:
___